US09126970B2
Synthesis of 7-bromo-12,12-dimethyl-10-phenyl-10,12-dihydro-10-azaindeno[2,1-b]fluorene
9.51 g (54 mmol) of N-bromosuccinimide are added over the course of 15 min to a solution of 19.3 g (54 mmol) of 12,12-dimethyl-10-phenyl-10,12-dihydro-10-azaindeno[2,1-b]fluorene in 80 ml of chloroform at RT under a protective-gas atmosphere and with exclusion of light. The mixture is stirred for 6 h, 80 ml of sat. Na2CO3 soln. are subsequently added, and the organic phase is separated off and dried over Na2SO4. After removal of the solvent under reduced pressure, the residue is recrystallised, giving the product as a colourless solid in a yield of 20 g (45 mmol), 85%.

reactant | N-bromosuccinimide | 54 mmol, 9.51 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 12,12-dimethyl-10-phenyl-10,12-dihydro-10-azaindeno[2,1-b]fluorene | 54 mmol, 19.3 g | CC1(C2=CC=CC=C2C=2C1=CC=1N(C3=CC=CC=C3C1C2)C2=CC=CC=C2)C | C27H21N
reactant | Na2CO3 | 80 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
product | 7-bromo-12,12-dimethyl-10-phenyl-10,12-dihydro-10-azaindeno[2,1-b]fluorene | BrC=1C=C2C=3C=C4C(=CC3N(C2=CC1)C1=CC=CC=C1)C(C1=CC=CC=C14)(C)C | C27H20BrN
